US05476941
2. 2-{2-[2-(1,1-Dimethylethyl)-2H-tetrazol-5-yl]phenyl}-6-methyl-1,2-dihydroquinoline
100 g (490 mmol) of 2-(1,1-dimethylethyl)-5-phenyl-2H-tetrazole and 500 ml of anhydrous tetrahydrofuran are introduced into a 2-liter three-necked round-bottomed flask under a nitrogen atmosphere. 215 ml (580 mmol) of 2.5M n-butyllithium solution in hexane are added dropwise to the mixture. The mixture is heated at the reflux temperature for 45 minutes, followed by addition of 49 g (410 mmol) of 6-methylquinoline dissolved in 300 ml of toluene. The reaction medium is left for 2 hours at the reflux temperature and is then cooled to room temperature. Next, 300 ml of ethanol are added and the solvent is evaporated off under reduced pressure. The residue is taken up in 500 ml of water and is filtered, washed with 200 ml of isopropanol and dried under vacuum.

reactant | 2-(1,1-dimethylethyl)-5-phenyl-2H-tetrazole | 490 mmol, 100 g | CC(C)(C)N1N=C(N=N1)C1=CC=CC=C1 | C11H14N4
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | n-butyllithium | 580 mmol, 2.5M, 215 ml | C(CCC)[Li]
reactant | 6-methylquinoline | 410 mmol, 49 g | CC=1C=C2C=CC=NC2=CC1 | C10H9N
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-{2-[2-(1,1-Dimethylethyl)-2H-tetrazol-5-yl]phenyl}-6-methyl-1,2-dihydroquinoline | CC(C)(C)N1N=C(N=N1)C1=C(C=CC=C1)C1NC2=CC=C(C=C2C=C1)C | C21H23N5
